US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (400.0 mg, 1.26 mmol) in DMSO (3 mL) was added (S)-butan-2-amine (200 mg, 2.74 mmol). The resulting solution was stirred overnight at 90° C. and then diluted with water (50 mL), extracted with dichloromethane (5×20 mL), dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography with 2% ethyl acetate in petroleum ether to afford (S)-methyl 3-(sec-butylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a yellow solid (280.0 mg, 63%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 1.26 mmol, 400.0 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | (S)-butan-2-amine | 2.74 mmol, 200 mg | C[C@@H](CC)N | C4H11N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | (S)-methyl 3-(sec-butylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 280.0 mg, 63% | [C@H](C)(CC)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C20H20FN3O2
